US09145409B2
[(1S)-2-(3,5-dichloro-1-oxido-pyridin-1-ium-4-yl)-1-(3,4-dimethoxyphenyl)-ethyl]4-[[3-[(S)-phenyl-[[(3R)-quinuclidin-3-yl]oxycarbonylamino]methyl]phenoxy]-methyl]benzoate (E7)
To a stirred solution of 4-((3-((S)-Phenyl((((R)-quinuclidin-3-yloxy)carbonyl)-amino)methyl)phenoxy)methyl)-benzoic acid (I17, 243 mg, 0.5 mmol) in DMF (2 mL) was added a solution of (1S)-2-(3,5-dichloro-1-oxido-pyridin-1-ium-4-yl)-1-(3,4-dimethoxyphenyl)-ethanol (172 mg, 0.5 mmol) in DMF (5 mL), followed by DMAP (31 mg, 0.25 mmol) and EDC.HCl (192 mg, 1 mmol). The mixture was allowed to stir at room temperature for 18 h and then the solvent was removed in vacuo. The residue was partitioned between DCM (15 mL) and saturated sodium bicarbonate solution (15 mL). The organic phase was washed with brine (15 mL), passed through a hydrophobic frit and the solvent was removed in vacuo. Purification was achieved by preparative HPLC to afford the title compound as a white solid (169 mg, 42%). 1H NMR (400 MHz, DMSO): δ 8.58 (s, 2 H), 8.27 (s, 1 H), 8.02 (d, J=8.1 Hz, 2 H), 7.59 (d, J=8.0 Hz, 2 H), 7.36-7.19 (m, 6 H), 7.10-6.88 (m, 6 H), 6.25 (dd, J=9.5, 4.4 Hz, 1 H), 5.84 (d, J=9.4 Hz, 1 H), 5.20 (s, 2 H), 4.64-4.57 (m, 1 H), 3.81 (s, 3 H), 3.78 (s, 3 H), 3.67 (dd, J=14.7, 9.7 Hz, 1 H), 3.37 (dd, J=14.1, 4.2 Hz, 1 H), 3.14 (t, J=11.7 Hz, 1 H), 2.83-2.52 (m, 5 H), 1.98-1.90 (m, 1 H), 1.88-1.76 (m, 1 H), 1.69-1.57 (m, 1 H), 1.57-1.44 (m, 1 H), 1.44-1.32 (m, 1 H). LCMS (Method 1): [MH+]=812 at 2.97 min.

reactant | 4-((3-((S)-Phenyl((((R)-quinuclidin-3-yloxy)carbonyl)-amino)methyl)phenoxy)methyl)-benzoic acid | 0.5 mmol, 243 mg | C1(=CC=CC=C1)[C@@H](C=1C=C(OCC2=CC=C(C(=O)O)C=C2)C=CC1)NC(=O)O[C@H]1CN2CCC1CC2 | C29H30N2O5
reactant | (1S)-2-(3,5-dichloro-1-oxido-pyridin-1-ium-4-yl)-1-(3,4-dimethoxyphenyl)-ethanol | 0.5 mmol, 172 mg | ClC=1C=[N+](C=C(C1C[C@H](O)C1=CC(=C(C=C1)OC)OC)Cl)[O-] | C15H15Cl2NO4
reactant | EDC.HCl | 1 mmol, 192 mg | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.25 mmol, 31 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | [(1S)-2-(3,5-dichloro-1-oxido-pyridin-1-ium-4-yl)-1-(3,4-dimethoxyphenyl)-ethyl]4-[[3-[(S)-phenyl-[[(3R)-quinuclidin-3-yl]oxycarbonylamino]methyl]phenoxy]-methyl]benzoate | 169 mg, 42% | ClC=1C=[N+](C=C(C1C[C@@H](C1=CC(=C(C=C1)OC)OC)OC(C1=CC=C(C=C1)COC1=CC(=CC=C1)[C@@H](NC(=O)O[C@H]1CN2CCC1CC2)C2=CC=CC=C2)=O)Cl)[O-] | C44H43Cl2N3O8
